US06759523B2
2-Deoxystreptamine Hydrobromide (3)
A solution of neomycin sulfate (20 g, 20.8 mmol) in HBr (150 mL, 48%) was stirred under reflux at 100° C. for 40 hours. The solution was concentrated to dryness at 60° C. under reduced pressure. The residue was dissolved into water (100 mL), and activated charcoal (10 g) was added. After stirring at room temperature for 10 hours, the charcoal was removed by filtration through Celite, and the solution was concentrated to a syrup. Methanol (100 mL) was added and the mixture was stirred for 2 hours at room temperature. The solid product was filtered to give the title compound (4.1 g, 61%). Rf: 0.2 (CH3OH/NH4OH=4:1); 1H-NMR (D2O, 200 MHZ): δ 1.95 (1H, ddd), 2.5 (1H, m), 3.2-3.6 (9H, m); 13C-NMR (D2O, 200 MHZ): δ 40.0, 65.0, 87.2, 89.5. Ref. Georgiadas, M. P.; Constantinou-Kokotou, V. J. Carbohydr. Chem. 1991, 10, 739-746.

reactant | neomycin sulfate | 20.8 mmol, 20 g | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)N)O[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O[C@@H]4[C@@H]([C@H]([C@@H]([C@@H](O4)CN)O)O)N)O)O)N.OS(=O)(=O)O
reactant | HBr | 150 mL | Br | BrH
product | 2-Deoxystreptamine Hydrobromide | 4.1 g, 61% | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O)O)O)N.Br | InChI=1S/C6H14N2O3.BrH/c7-2-1-3(8)5(10)6(11)4(2)9;/h2-6,9-11H,1,7-8H2;1H/t2-,3+,4+,5-,6-;
